US05965490
9. Preparation of 2-Ethoxy-5-methylbenzenesulfonyl Chloride
A solution of 6.8 g (50 mmol) of 4-ethoxytoluene in 20 mL of dichloromethane was added to a solution of 10 mL (150 mmol) of chlorosulfonic acid in 10 mL of dichloromethane at 0° C. with cooling and stirring. The mixture was stirred 1 hour at 0° C. and was then warmed to ambient temperature and stirred another hour. The resulting tan solution was poured into 200 mL of ice water and the mixture was extracted with dichloromethane. The extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The residual 7.9 g (68 percent of theory) of light tan solid melting at 59-61° C. was the title compound.

reactant | 4-ethoxytoluene | 50 mmol, 6.8 g | C(C)OC1=CC=C(C=C1)C | C9H12O
reactant | chlorosulfonic acid | 150 mmol, 10 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Ethoxy-5-methylbenzenesulfonyl Chloride | C(C)OC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C9H11ClO3S
